US06555519B2
C. Methyl 2,6-diacetoxybenzoate
To a stirred 4° solution of Part B 2,6-diacetoxybenzoic acid (5.8 g, mmol) in 4:1 PhMe/MeOH (25 mL) was added 17 mL of 2M TMSCHN2/hexane over 10 min. After tlc analysis (1:1 ETOAc/hexane) revealed complete conversion, the volatiles were removed using a rotary evaporator and the residue purified by silica gel chromatography. 1:1 CH2Cl2/hexane-CH2Cl2 eluted 4.5 g of methyl 2,6-diacetoxybenzoate.

reactant | 2,6-diacetoxybenzoic acid | 5.8 g | C(C)(=O)OC1=C(C(=O)O)C(=CC=C1)OC(C)=O | C11H10O6
reactant | PhMe MeOH | 25 mL | C1(=CC=CC=C1)C.CO
reactant | TMSCHN2 hexane | 2M, 17 mL | [Si](C)(C)(C)C=[N+]=[N-].CCCCCC
solvent | hexane | CCCCCC | C6H14
product | Methyl 2,6-diacetoxybenzoate | C(C)(=O)OC1=C(C(=O)OC)C(=CC=C1)OC(C)=O | C12H12O6
